US08293917B2
2-Methyl-propane-2-sulfinic acid 1-(5-bromo-pyridin-3-yl)-butylamide (16 g, 48 mmol) is treated with aqueous HCl (3.0 N solution, 400 mL, 1.2 mol) at room temperature and stirred for 5 hours. The reaction mixture is quenched by addition of saturated aqueous sodium carbonate solution until pH 8 and extracted with dichloromethane (3×300 mL). The combined organic phases are dried over Na2SO4, filtered, and concentrated to afford 1-(5-bromo-pyridin-3-yl)-butylamine (9.5 g, 86%) of as a light brown oil.

reactant | 2-Methyl-propane-2-sulfinic acid 1-(5-bromo-pyridin-3-yl)-butylamide | 48 mmol, 16 g | BrC=1C=C(C=NC1)C(CCC)NS(=O)C(C)(C)C | C13H21BrN2OS
reactant | HCl | 1.2 mol, 3.0 N, 400 mL | Cl | ClH
product | 1-(5-bromo-pyridin-3-yl)-butylamine | 9.5 g, 86% | BrC=1C=C(C=NC1)C(CCC)N | C9H13BrN2
